US07129244B2
Step 3: Synthesis of 7-chloro-3-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
A solution of 6-chloro-N4-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-pyrimidine-2,4,5-triamine was treated with a cold aqueous solution of NaNO2, following the general procedure 2. HPLC RT was 3.597 min. 1HNMR (CDCl3): δ 8.22 (s, 1H), 7.12 (broad t, 1H), 4.61 (s, 2H), 4.56–4.55 (d, 2H), 3.80 (s, 3H), 3.00 (s, 2H), 2.29 (s, 3H), 2.27 (s, 3H).

reactant | 6-chloro-N4-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NCC1=NC=C(C(=C1C)OC)C)N | C13H17ClN6O
reactant | NaNO2 | N(=O)[O-].[Na+]
product | 7-chloro-3-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC=C(C(=C2C)OC)C | C13H14ClN7O
